US08349835B2
Step A: General Procedure for the Synthesis of 3-methoxy-4-butoxybenzonitrile
2-methoxy-4-cyano-phenol (0.25 g, 1.67 mmol) and anhydrous DMF (2.00 mL) were added into a flask, then cooled in a water bath while stirring. Several batches of K2CO3 (0.347 g, 2.50 mmol) were added to the mixture and stirred at 20° C. to react for 1 h. n-butyl bromine (0.23 ml, 2.14 mmol) was added into the mixture, which was stirred at room temperature overnight, then heated at 37° C. to react for 6 h. Poured the solution into a mixture of ice/H2O (25 mL), then stirred for 10 min, a precipitate was formed. Filtered, washed with H2O, and air-dried to yield 0.361 g of white solid product with a recovery rate of 92%.

reactant | 2-methoxy-4-cyano-phenol | 1.67 mmol, 0.25 g | COC1=C(C=CC(=C1)C#N)O | C8H7NO2
reactant | K2CO3 | 2.50 mmol, 0.347 g | C(=O)([O-])[O-].[K+].[K+]
reactant | n-butyl bromine | 2.14 mmol, 0.23 ml | C(CCC)Br | C4H9Br
solvent | DMF | 2.00 mL | CN(C)C=O | C3H7NO
product | 3-methoxy-4-butoxybenzonitrile | 0.361 g | COC=1C=C(C#N)C=CC1OCCCC | C12H15NO2
